US07199147B2
Under a nitrogen atmosphere, lithium aluminum hydride (92 mg, 2.44 mmol) was added to a solution of 1-cyanocyclohexan-3-one (100 mg, 0.812 mmol) in tetrahydrofuran (2 ml) at room temperature, and the resulting mixture was refluxed. After 5 hours, water, an aqueous sodium hydroxide solution and water were added in that order to the reaction solution, and the resulting mixture was filtered under reduced pressure. Thereafter, 1M-hydrochloric acid-diethyl ether (974 μl, 0.974 mmol) was added to the filtrate. The resulting mixture was concentrated under reduced pressure, and to an aqueous solution (4 ml) of the resulting residue were added potassium carbonate (202 mg, 1.46 mmol), ethoxycarbonylphthalimide (196 mg, 0.893 mmol) and acetonitrile (1 ml) at room temperature. After 21 hours, the reaction solution was poured into water and extracted with ethyl acetate, and the organic layer was dried over anhydrous magnesium sulfate. The organic layer dried was concentrated under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate) and purified again by a silica gel column chromatography (eluent: chloroform/ethyl acetate) to obtain cis-2-[(3-hydroxycyclohexyl)methyl]-1H-isoindole-1,3(2H)-dione (83.5 mg, 40%, cis:trans=12:1).

reactant | lithium aluminum hydride | 2.44 mmol, 92 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-cyanocyclohexan-3-one | 0.812 mmol, 100 mg | C(#N)C1CC(CCC1)=O | C7H9NO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid diethyl ether | 0.974 mmol, 974 μl | Cl.C(C)OCC
reactant | potassium carbonate | 1.46 mmol, 202 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethoxycarbonylphthalimide | 0.893 mmol, 196 mg | C(C)OC(=O)C1=C2C(C(=O)NC2=O)=CC=C1 | C11H9NO4
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | cis-2-[(3-hydroxycyclohexyl)methyl]-1H-isoindole-1,3(2H)-dione | 83.5 mg, 40% | O[C@H]1C[C@H](CCC1)CN1C(C2=CC=CC=C2C1=O)=O | C15H17NO3
